US06110933
To an ice-cooled solution of methyl 3-oxododecanoate in methanol was added sodium borohydride (83 mg). After stirring for 20 minutes, 1N-hydrochloric acid (2.2 ml) was added. After concentration, the residue was dissolved in ethyl acetate (30 ml) and 0.1 N-hydrochloric acid (20 ml). The organic phase was washed with water (20 ml), saturated aqueous sodium bicarbonate (20 ml), and brine (20 ml), dried, and concentrated. The residue was dissolved in methanol (3 ml), and to this solution was added 1N-sodium hydroxide (2.4 ml). The mixture was refluxed for an hour, and diluted with water (30 ml). This aqueous solution was washed with dichloromethane (20 ml), acidified with 1N-hydrochloric acid (2.6 ml), and extracted with ethyl acetate (30 ml). This organic phase was washed with brine (20 ml), dried, and concentrated. The residue was recrystallized from a mixture of ethyl acetate (1 ml) and n-hexane (3 ml) to give 3-hydroxydodecanoic acid (0.27 g).

reactant | methyl 3-oxododecanoate | O=C(CC(=O)OC)CCCCCCCCC | C13H24O3
reactant | sodium borohydride | 83 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 2.2 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 3-hydroxydodecanoic acid | 0.27 g | OC(CC(=O)O)CCCCCCCCC | C12H24O3
